US06589978B2
(2S,5S)-1-{4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyl}-1H-imidazole
The title compound, colorless oil, MS: m/e=442.3 (M+H+) and [α]D20=−64.3° (c=0.2673 in chloroform), was prepared in accordance with the general method of example 82b from (2S,5S)-2-(4-chloro-butyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine and 1H-imidazole.

reactant | (2S,5S)-2-(4-chloro-butyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClCCCC[C@@H]1N([C@@H](CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C21H25ClFNO2S
reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2S,5S)-1-{4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyl}-1H-imidazole | FC1=CC=C(C=C1)[C@@H]1CC[C@@H](N1S(=O)(=O)C1=CC=C(C=C1)C)CCCCN1C=NC=C1 | C24H28FN3O2S
